US09331282B2
A compound E-1 was synthesized by the following method. 1,10-phenanthroline (9.64 g) was reacted with phenyl lithium (100 ml) (1.07 M cyclohexane/ether solution) at 0° C. for 1.5 hours in toluene (250 ml) and treated by a conventional method. The resulting product was reacted with manganese dioxide (93.0 g) at room temperature for 56 hours in dichloromethane (300 ml) and treated by a conventional method to obtain 9.44 g of 2-phenyl-1,10-phenanthroline. To 25 ml of a THF solution of 1,3-dibromobenzene (0.34 ml) was added an t-butyl lithium (1.53 M pentane solution) (7.35 mL) at −78° C., and the resulting mixture was stirred for 1 hour, and then its temperature was raised to 0° C. The resulting solution was added to 85 ml of a THF solution of the obtained 2-phenyl-1,10-phenanthroline (1.44 g), and the resulting mixture was stirred at room temperature for 20 hours, and treated by a conventional method. The resulting product was reacted with manganese dioxide (8.50 g) at room temperature for 23 hours in dichloromethane (85 ml) and treated by a conventional method to obtain 1.08 g of a compound E-1.

reactant | 1,10-phenanthroline | 9.64 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | phenyl lithium | 1.07 M, 100 ml | C1(=CC=CC=C1)[Li]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 93.0 g | [O-2].[O-2].[Mn+4]
product | 2-phenyl-1,10-phenanthroline | 9.44 g | C1(=CC=CC=C1)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C18H12N2
